US06972340B2
2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid
A mixture of 3-(4-nitro-1-naphthyl)alanine (0.65 g, 2.5 mmol), aqueous NaHCO3 (5 mL) and methylchloroformate (230 uL, 3 mmol, 1.2 eq) in dioxane (10 mL) was stirred for 3 hours, acidified to a ph <3 with aqueous 2N HCl and extracted with ethyl acetate. The combined organic layers was washed with water (1×25 mL), brine(1×25 mL), dried (MgSO4), filtered and concentrated under reduce pressure to provide the titled compound. MS (APCI(+)) m/e 319 (M+H)+.

reactant | 3-(4-nitro-1-naphthyl)alanine | 2.5 mmol, 0.65 g | [N+](=O)([O-])C1=CC=C(C2=CC=CC=C12)C[C@H](N)C(=O)O | C13H12N2O4
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
reactant | methylchloroformate | 3 mmol, 230 uL, 1.2 eq | COC(=O)Cl | C2H3ClO2
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-methoxycarbonylamino-3-(4-nitro-naphthalen-1-yl)-propionic acid | COC(=O)NC(C(=O)O)CC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C15H14N2O6
